US04990508
1 ml of a 30% hydrogen bromide-acetic acid solution was added to 52 mg of ethyl 10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-fluoromethyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6carboxylate. The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue obtained were added 10 ml of diethyl ether and 20 ml of water in this order. The aqueous layer was separated and 20 ml of ethyl acetate was added thereto. The resulting mixture was adjusted to pH 8.5 with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 35 mg (yield: 90.8%) of ethyl 10-(1-aminocyclopropyl)-9-fluoro-3-fluoromethyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | ethyl 10-(1-benzyloxycarbonylaminocyclopropyl)-9-fluoro-3-fluoromethyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6carboxylate | 52 mg | C(C1=CC=CC=C1)OC(=O)NC1(CC1)C=1C(=CC2=C3N(C(COC31)CF)C=C(C2=O)C(=O)OCC)F | C26H24F2N2O6
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
product | ethyl 10-(1-aminocyclopropyl)-9-fluoro-3-fluoromethyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 35 mg, yield: 90.8% | NC1(CC1)C=1C(=CC2=C3N(C(COC31)CF)C=C(C2=O)C(=O)OCC)F | C18H18F2N2O4
